US08217051B2
In a manner similar to the method described in Example 2, E/Z-6-chloro-3-pyridin-3-ylmethylene-1,3-dihydro-indol-2-one (2.3 g, 8.96 mmol) was reacted with di-tert-butyl-dicarbonate (2.34 g, 10.7 mmol) (Aldrich), and 4-dimethylaminopyridine (44 mg) in dichloromethane to give E/Z-6-chloro-2-oxo-3-pyridin-3-ylmethylene-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow solid (Yield: 2 g, 60%).

reactant | Z-6-chloro-3-pyridin-3-ylmethylene-1,3-dihydro-indol-2-one | 8.96 mmol, 2.3 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C=1C=NC=CC1 | C14H9ClN2O
reactant | di-tert-butyl-dicarbonate | 10.7 mmol, 2.34 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 44 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-6-chloro-2-oxo-3-pyridin-3-ylmethylene-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield: 2 g, 60% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C=1C=NC=CC1)=O | C19H17ClN2O3
